US04232038
To a stirred solution of 4.1 g of methyl N-(2-hydroxyethyl)-3-carbomethoxypyrrole-2-acetate in 35 ml of dry dichloromethane cooled to -10° C., are added 2.65 ml of triethylamine and thereafter, in a dropwise fashion, 1.46 ml of methanesulfonyl chloride, maintaining the temperature of the reaction mixture at -10° to -5° C. The course of the reaction is followed by t.l.c. analysis using chloroform:acetone (90:10). When the reaction appears to be complete (about 30 minutes after the addition of the methanesulfonyl chloride is terminated) there is added slowly 10 ml of water. The organic phase is separated, washed with water (3×30 ml), dried over sodium sulfate and evaporated under reduced pressure. Crystallization of the residue from dichloromethane affords 4.75 g (77.7%) of methyl N-(2-mesyloxyethyl)-3-carbomethoxypyrrole-2-acetate (V,R=H), m.p. 99°-101° C.

reactant | methyl N-(2-hydroxyethyl)-3-carbomethoxypyrrole-2-acetate | 4.1 g | OCCN1C(=C(C=C1)C(=O)OC)CC(=O)OC | C11H15NO5
reactant | triethylamine | 2.65 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.46 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | chloroform acetone | C(Cl)(Cl)Cl.CC(=O)C
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | methyl N-(2-mesyloxyethyl)-3-carbomethoxypyrrole-2-acetate | 4.75 g, 77.7% | S(=O)(=O)(C)OCCN1C(=C(C=C1)C(=O)OC)CC(=O)OC | C12H17NO7S
